US07582760B2
4-[1-(3-Fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (330 mg) was dissolved in 4 mL of THF and cooled to −78° C. before adding 1.6 M methyl lithium in hexaness (800 uL). The solution was stirred and warmed to room temperature, then stirred for an hour at room temperature. The reaction was quenched by addition of water and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography afforded 315 mg of 4-[1-(3-fluoro-benzyl)-3-hydroxy-3-methyl-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester. MS: 356 (M−Boc+H)+.

reactant | 4-[1-(3-Fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 330 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)=O | C24H26FN3O4
reactant | methyl lithium | 1.6 M | C[Li]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-[1-(3-fluoro-benzyl)-3-hydroxy-3-methyl-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 315 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)(C)O | C25H30FN3O4
